US04599198
A. N-Methyl-L-Histidine methyl ester
One gram of N-methyl-L-histidine was dissolved in methanol and HCl was bubbled in at 0° C. for a few minutes. The mixture was heated at reflux 1.5 hours (more hydrochloric acid was introduced on several occasions) and the cooled solution was concentrated at reduced pressure. HPLC indicated about 7% of unreacted starting material remaining. The product was not additionally purified.

reactant | N-methyl-L-histidine | One gram | CN[C@@H](CC1=CNC=N1)C(=O)O | C7H11N3O2
reactant | methanol | CO | CH4O
product | N-Methyl-L-Histidine methyl ester | COC([C@@H](NC)CC1=CNC=N1)=O | C8H13N3O2
